US04935413
Into a three-necked flask purged with nitrogen gas, benzoin (2.12 g; 10 mmol) was charged, and chloroform (30 ml) was added thereto. To the resultant solution, a solution of methacryloyl isocyanate (1.11 g; 10 mmol) in 1,2-dichloroethane (7 g) was dropwise added in 5 minutes under nitrogen stream while stirring. Chloroform and 1,2-dichloroethane were removed by evaporation under reduced pressure to give benzoylbenzyl N-methacryloylcarbamate (3.3 g), which was recrysallized from a mixture of benzene and chloroform to give colorless transparent plates. M.P., 161°-163° C.

reactant | benzoin | 10 mmol, 2.12 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
reactant | methacryloyl isocyanate | 10 mmol, 1.11 g | C(C(=C)C)(=O)N=C=O | C5H5NO2
solvent | 1,2-dichloroethane | 7 g | ClCCCl | C2H4Cl2
product | benzoylbenzyl N-methacryloylcarbamate | 3.3 g | C(C(=C)C)(=O)NC(OC(C1=CC=CC=C1)C(C1=CC=CC=C1)=O)=O | C19H17NO4
